US03950425
1. 2-keto-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine
To a solution of 42 g of the compound 10-keto-10,11-dihydrodibenzo(b,f)-oxepine in 200 ml of dry ethanol a solution of sodiumethoxide (7 g of sodium in 500 ml of ethanol) is added dropwise. After stirring the mixture for 30 minutes 16.2 ml of methylvinylketon in 50 ml of ethanol are added, whereupon the solution is refluxed for 1 hour. The solution is cooled then and poured into 2 N HCl. After extracting into ether, washing the ether layer with water (till neutral) and drying the etherial phase, the solvent is evaporated.

reactant | 10-keto-10,11-dihydrodibenzo(b,f)-oxepine | O=C1CC2=C(OC3=C1C=CC=C3)C=CC=C2 | C14H10O2
reactant | sodiumethoxide | 500 ml, 7 g | [O-]CC.[Na+]
reactant | methylvinylketon | 16.2 ml | CC(=O)C=C | C4H6O
reactant | HCl | 2 N | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-keto-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine | O=C1CC2=C(C3=C(OC4=C2C=CC=C4)C=CC=C3)CC1 | C18H14O2
